US05157041
A solution of 150 mg of 2-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide (isomer A) in 5 ml of ethanol was hydrogenated under a pressure of 3.4 atmospheres over 10% palladium-on-charcoal at 20° C. for 16 hours. The catalyst was removed by filtration and the filtrate was evaporated to give 120 mg of 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide (isomer A); MS: m/e 435 [M+H]+.

reactant | 2-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide | 150 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CN1C(C=2NC3=CC=CC=C3C2CC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C34H40N4O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide | 120 mg | N[C@H]([C@@H](CN1C(C=2NC3=CC=CC=C3C2CC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C26H34N4O2
